US07700625B2
A stirred solution of 3-methoxyphthalimide (8.95 g, 50.56 mmol) in anhydrous tetrahydrofuran (200 ml) at 0° C. was treated dropwise with a solution of borane in tetrahydrofuran (1M, 150 ml, 0.15 mol) and the resulting mixture was stirred and held at reflux for 16 hours. The mixture was cooled to 0° C., methanol (60 ml) was added dropwise followed by 5M hydrochloric acid (60 ml) and the mixture was stirred and held at reflux for 4 hours. Upon cooling to room temperature the organic solvent was removed in vacuo and the mixture diluted with water (250 ml) and extracted with dichloromethane (3×250 ml). The aqueous layer was basified to pH 12 or above by the addition of 5M sodium hydroxide, extracted with dichloromethane (3×250 ml) and the combined extracts were evaporated to dryness in vacuo to afford 4-methoxyisoindoline (4.44 g, 59%) as a green oil which was used without further purification. 1H NMR (DMSO-d6) 7.18 (1H, t), 6.83 (1H, d), 6.78 (1H, d), 4.07 (2H, s), 4.02 (2H, s), 3.78 (3H, s). MS: [M+H]+ 150.

reactant | 3-methoxyphthalimide | 50.56 mmol, 8.95 g | COC1=C2C(C(=O)NC2=O)=CC=C1 | C9H7NO3
reactant | borane | B | BH3
reactant | methanol | 60 ml | CO | CH4O
reactant | hydrochloric acid | 5M, 60 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.15 mol, 1M, 150 ml | O1CCCC1 | C4H8O
product | 4-methoxyisoindoline | 4.44 g, 59% | COC1=C2CNCC2=CC=C1 | C9H11NO
